US04018766
1,2,3,4-Tetrahydro-8,9-dimethyl-3[2-(piperidino)-ethyl]-5H-[1]benzopyrano[3,4-c]pyridine-5-one.
In the same way as described in example 3, 4.2g of 1,2,3,4-tetrahydro-8,9-dimethyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one, 4.05g of N-chloroethylpiperidine hydrochloride and 4.4g of triethylamine gave 5.0g of crude base. Crystallization from actronitrile gave analytical material, m.p. 142°-5° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 4.2g | CC1=CC2=C(C=C1C)C1=C(CNCC1)C(O2)=O | C14H15NO2
reactant | N-chloroethylpiperidine hydrochloride | 4.05g | Cl.ClCCN1CCCCC1
solvent | triethylamine | 4.4g | C(C)N(CC)CC | C6H15N
product | 1,2,3,4-Tetrahydro-8,9-dimethyl-3[2-(piperidino)-ethyl]-5H-[1]benzopyrano[3,4-c]pyridine-5-one | 5.0g | CC1=CC2=C(C=C1C)C1=C(CN(CC1)CCN1CCCCC1)C(O2)=O | C21H28N2O2
